US07544835B2
b) 1-(2-Benzyloxyethyl)-1H-indol-4-aldehyde
3.6 g of Methyl 1-(2-benzyloxyethyl)-1H-indol-4-carboxylate was dissolved in 40 ml of diethyl ether, and 0.44 g of lithium aluminum hydride was added under ice-cooling. After stirring at room temperature for 10 minutes, the reaction solution was cooled with ice, and diethyl ether and water were added. When the insoluble substances adhered to and solidified on the wall of the flask, the reaction solution was dried over anhydrous magnesium sulfate, then the solvent was evaporated. The residue was dissolved in 40 ml of dichloromethane, 20 g of manganese dioxide was added, and the mixture was stirred at room temperature for 2 hours. After filtering off the manganese dioxide through Celite, and washing through with ethyl acetate, the solvent was evaporated, to give 1.5 g of the title compound.

reactant | Methyl 1-(2-benzyloxyethyl)-1H-indol-4-carboxylate | 3.6 g | C(C1=CC=CC=C1)OCCN1C=CC=2C(=CC=CC12)C(=O)OC | C19H19NO3
reactant | lithium aluminum hydride | 0.44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 1-(2-Benzyloxyethyl)-1H-indol-4-aldehyde | 1.5 g | C(C1=CC=CC=C1)OCCN1C=CC=2C(=CC=CC12)C=O | C18H17NO2
